US07238808B2
Prepared by general procedure III from 3-bromo-2-chloropyridine-5-sulphonylchloride (580 mg, 2 mmol) and 2-amino-2-methyl-1,3-propanediol (231 mg, 2 mmol) to give 5-Bromo-6-chloro-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (600 mg, 83%) as a yellow solid. MS (ISN) 357[(M−H)−], 359.0[(M+2−H)−], 361.0[(M+4−H)−].

reactant | 3-bromo-2-chloropyridine-5-sulphonylchloride | 2 mmol, 580 mg | BrC=1C(=NC=C(C1)S(=O)(=O)Cl)Cl | C5H2BrCl2NO2S
reactant | 2-amino-2-methyl-1,3-propanediol | 2 mmol, 231 mg | NC(CO)(CO)C | C4H11NO2
product | 5-Bromo-6-chloro-pyridine-3-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 600 mg, 83% | OCC(C)(CO)NS(=O)(=O)C=1C=NC(=C(C1)Br)Cl | C9H12BrClN2O4S
